### PR TITLE
EVMPR theorem twoState_helmholtzFreeEnergy_eq 

### PR DESCRIPTION
**Pull request by korolrom**
This is my first contribution to physlib. 
The result can be simplified further under hypothesis T \neq 0, but I left it as a more general result including zero temperature.

### CODE REVIEW

File: Physlib/StatisticalMechanics/CanonicalEnsemble/TwoState.lean [hunk 1]
```diff
@@ -104,8 +104,33 @@ informal_lemma twoState_entropy_eq where
   deps := [``twoState, ``thermodynamicEntropy]
 
 /-- A simplification of the `helmholtzFreeEnergy` of the two-state canonical ensemble. -/
-informal_lemma twoState_helmholtzFreeEnergy_eq where
-  tag := "EVMPR"
-  deps := [``twoState]
+lemma twoState_helmholtzFreeEnergy_eq
+    (E₀ E₁ : ℝ) (T : Temperature) :
```
Comment (jstoobysmith) [inline Physlib/StatisticalMechanics/CanonicalEnsemble/TwoState.lean]: Could probably collapse this to one line.

File: Physlib/StatisticalMechanics/CanonicalEnsemble/TwoState.lean [hunk 2]
```diff
@@ -104,8 +104,33 @@ informal_lemma twoState_entropy_eq where
...
+  set C := β T * (E₀ + E₁) / 2
+  have hE0 : -β T * E₀ = x +(- C) := by
+    simp [x, C]
+    ring
+  have hE1 : -β T * E₁ = -x + (- C) := by
+    simp [x, C]
+    ring
+  rw [helmholtzFreeEnergy, twoState_partitionFunction_apply]
+  rw [show (T.val : ℝ) = T.toReal by rfl]
+  rw [hE0, hE1]
```
Comment (jstoobysmith) [inline Physlib/StatisticalMechanics/CanonicalEnsemble/TwoState.lean]: May worth be putting this into a single large `rw [...]`

File: Physlib/StatisticalMechanics/CanonicalEnsemble/TwoState.lean [hunk 3]
```diff
@@ -104,8 +104,33 @@ informal_lemma twoState_entropy_eq where
...
+      Real.exp (x + (- C)) + Real.exp (-x + (- C)) =
+        Real.exp (-C) * (2 * Real.cosh x) := by
+    rw [Real.exp_add, Real.exp_add, Real.cosh_eq]
+    ring
+  rw [hfactor]
+  rw [Real.log_mul
+        (Real.exp_pos _).ne'
+        (by positivity : 2 * Real.cosh x ≠ 0)]
+  rw [Real.log_exp,Temperature.β_toReal]
+  simp only [div_eq_mul_inv, one_mul, inv_inv]
```
Comment (jstoobysmith) [inline Physlib/StatisticalMechanics/CanonicalEnsemble/TwoState.lean]: Could you combine the things in the `rw` with the things in the `simp` so e.g. 

```
simp only [Real.log_exp,Temperature.β_toReal, div_eq_mul_inv, one_mul, inv_inv]
```
(Will have to check if this actually works).

**Review by jstoobysmith — COMMENTED** [review]
Hi @korolrom This is a great first PR. I've added some comments (some of them are a bit pedantic). If you could have a go at addressing them, this would be great. 

Let me know if you have any questions :).

**Comment by jstoobysmith** [comment]
Also doing the T \neq 0 case would be a great future PR!

**Comment by korolrom** [comment]
Thank you for the ultrafast review! @jstoobysmith 
I have condensed the lines you suggested as well as 1-2 more.

I am happy to also add the T \neq 0 case. Would that be another lemma? Feels like not "big" enough to warrant its own lemma :)

**Comment by jstoobysmith** [comment]
This looks much better - and looks almost there! Some of the linters are now failing though. Would you mind fixing these (some instructions to running them locally [here](https://github.com/leanprover-community/physlib/blob/master/scripts/README.md), but can also just rely on github workflows. The ones I can see now are about line lengths. 

Regarding T \neq 0, if it is a large simplification then it probably does warrant its own lemma, but probably best to keep that to a separate Pull request (PR).

**Comment by korolrom** [comment]
Ok, I split the line and I tried to run the linter locally but there are a lot of errors and warnings from 
`lake exe lint all`

I am ready to create another PR for the T\neq 0 result once this one is merged!

**Review by jstoobysmith — APPROVED** [review]
This looks good now. Yeah some of the warnings on all the linters are not vital. 

Many thanks for this first pr! Will merge shortly

**Comment by jstoobysmith** [comment]
To be a bit more specific about the linters: `lake exe lint_all` has two types of linters: Those which must be done for the github ci and those which are optional (which are hopefully clearly labelled) 
Because they are optional, `lake exe lint_all` pulls up things which others haven't fixed in earlier PRs, and you shouldn't feel any expectation to fix these.

**Comment by jstoobysmith** [comment]
Merged - looking forward to future PRs 🎉
